US08466145B2
A mixture of intermediate 6 (0.27 g. 1.0 mmol), 1,1′-Carbonyldiimidazole (0.19 g, 1.2 mmol) and piperidine (0.10 g, 1 mmol) in dichloromethane was stirred at room temperature for 8 h. The reaction mixture was diluted with dichloromethane, washed with water, dried over anhydrous Na2SO4 and concentrated. Crude material was purified by column chromatography to obtain tert-butyl (1R,3S)-1,2,2-trimethyl-3-(piperidine-1-carbonyl)cyclopentylcarbamate. To the solution of tert-butyl (1R,3S)-1,2,2-trimethyl-3-(piperidine-1-carbonyl)cyclopentylcarbamate in ethyl acetate was added hydrochloride solution in ethylacetate and stirred for 2 h to afford ((1S,3R)-3-amino-2,2,3-trimethylcyclopentyl)(piperidin-1-yl)methanone hydrochloride. 1H NMR (400 MHz, D2O) δ ppm: 0.98 (s, 3H), 1.11 (s, 3H), 1.31 (s, 3H), 1.54-1.60 (m, 6H), 1.94-2.20 (m, 4H), 3.47-3.48 (m, 1H), 3.54-3.57 (m, 2H), 3.65-3.66 (m, 2H). m/z (M+H): 239.2.

reactant | tert-butyl (1R,3S)-1,2,2-trimethyl-3-(piperidine-1-carbonyl)cyclopentylcarbamate | C[C@@]1(C([C@H](CC1)C(=O)N1CCCCC1)(C)C)NC(OC(C)(C)C)=O | C19H34N2O3
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | ((1S,3R)-3-amino-2,2,3-trimethylcyclopentyl)(piperidin-1-yl)methanone hydrochloride | Cl.N[C@]1(C([C@H](CC1)C(=O)N1CCCCC1)(C)C)C | InChI=1S/C14H26N2O.ClH/c1-13(2)11(7-8-14(13,3)15)12(17)16-9-5-4-6-10-16;/h11H,4-10,15H2,1-3H3;1H/t11-,14-;/m1./s1
